US08017611B2
Bromoethane (0.019 ml) at 0° C. was added to a stirred mixture of 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (90 mg) and potassium carbonate (68.8 mg) and DMF (1.5 mL) over a period of 5 minutes under argon. The resulting suspension was stirred at 25° C. for 20 hours. The solvent was evaporated. A solution of ammonia in methanol 7N (1 ml) was added and the mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 1 to 5% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford 5-[1-(1-ethyl-4-piperidyl)pyrazol-4-yl]-3-oxazolo[4,5-b]pyridin-2-yl-pyridin-2-amine (60.0 mg) as a solid. NMR Spectrum: (DMSOd6) 1.03 (t, 3H), 1.91-2.10 (m, 6H), 2.38 (q, 2H), 2.94-3.01 (m, 2H), 4.09-4.18 (m, 1H), 7.48 (dd, 1H), 7.67 (bs, 2H), 7.92 (s, 1H), 8.23 (dd, 1H), 8.34 (s, 1H), 8.46 (d, 1H), 8.55 (dd, 1H), 8.58 (d, 1H); Mass spectrum: M+H+ 390.

reactant | Bromoethane | 0.019 ml | BrCC | C2H5Br
reactant | 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 90 mg | O1C(=NC2=NC=CC=C21)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C19H19N7O
reactant | potassium carbonate | 68.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-[1-(1-ethyl-4-piperidyl)pyrazol-4-yl]-3-oxazolo[4,5-b]pyridin-2-yl-pyridin-2-amine | 60.0 mg | C(C)N1CCC(CC1)N1N=CC(=C1)C=1C=C(C(=NC1)N)C=1OC=2C(=NC=CC2)N1 | C21H23N7O
